US07399774B2
Subject a mixture of 5-methoxy-indan-1-carbonitrile (1.49 g, 8.60 mmol), Raney nickel (500 mg), anhydrous ammonia (10 ml), and abs. EtOH (50 ml) to 900 lbs of hydrogen gas and beat at 80° C. for five hours. After cooling and purging with nitrogen, remove the catalyst via filtration and concentrate the filtrate on a rotary evaporator. Suspend this material in DCM (30 ml) and cool to −78° C. before adding a solution of BBr3/DCM (8 ml) drop-wise. After the addition is complete, allow the mixture to warm to ambient temperature and stir for 2.5 hours. Cool again to −78° C. and carefully quench with MeOH before concentrating. Treat this material with THF (35 ml), 1M aqueous K2CO3 (21.5 ml), and Boc2O (2.25 g, 10.3 mmol) and stir vigorously at ambient temperature overnight. Pour the reaction mixture into saturated aqueous NH4Cl and extract with EtOAc (2×). Wash combined extracts with brine, dry (MgSO4) and concentrate to a yellow foam. Purify on silica gel (10% EtOAc/DCM) to obtain N-Boc-1-aminomethyl-indan-5-ol (945 mg) as a yellow foam. 1HNMR (CDCl3): 6.98 (d, 1H), 6.85 (s, 1H), 6.73 (s, 1H), 6.65 (d, 1H), 4.69 (br s, 1H), 3.45 (m, 1H), 3.22 (m, 2H), 2.88-2.72 (m 2H), 2.20 (m, 1H), 1.78 (m, 1H), 1.45 (s, 9H).

reactant | 5-methoxy-indan-1-carbonitrile | 8.60 mmol, 1.49 g | COC=1C=C2CCC(C2=CC1)C#N | C11H11NO
reactant | ammonia | 10 ml | N | H3N
reactant | hydrogen | 900 lbs | [H][H] | H2
reactant | K2CO3 | 1M, 21.5 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | Boc2O | 10.3 mmol, 2.25 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | Raney nickel | 500 mg | [Ni] | Ni
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | EtOH | 50 ml | CCO | C2H6O
product | N-Boc-1-aminomethyl-indan-5-ol | 945 mg | C(=O)(OC(C)(C)C)NCC1CCC2=CC(=CC=C12)O | C15H21NO3
